US04965257
Tetrabutyl ammonium fluoride solution (3.3 ml,1M in tetrahydroforan) was added to a stirred solution of 4-ethyl-1-[4-(2-trimethylsilylethynyl)phenyl]-2,6,7-trioxabicyclo[2,2,2]octane (0.87 gms) in tetrahydrofuran (15 ml). The mixture was stirred for 30 minutes at room temperature when the solvent was removed under vacuum. The residue was taken up in ether and washed with water and brine. The ethereal solution was dried over anhydrous magnesium sulphate and evaporated in vacuo. Recrystallisation from hexane gave 4-ethyl-1-(4-ethynylphenyl)-2,6,7-trioxabicyclo[2,2,2]octane as an off-white solid (0.66 gms).

reactant | Tetrabutyl ammonium fluoride | 1M, 3.3 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 4-ethyl-1-[4-(2-trimethylsilylethynyl)phenyl]-2,6,7-trioxabicyclo[2,2,2]octane | 0.87 gms | C(C)C12COC(OC1)(OC2)C2=CC=C(C=C2)C#C[Si](C)(C)C | C18H24O3Si
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 4-ethyl-1-(4-ethynylphenyl)-2,6,7-trioxabicyclo[2,2,2]octane | 0.66 gms | C(C)C12COC(OC1)(OC2)C2=CC=C(C=C2)C#C | C15H16O3
